US05362742
To a solution of 3,5-di-tert-butyl-4-hydroxybenzoic acid (220 mg) in dichloromethane (20 ml) was dropwise added dicyclohexylcarbodiimide (DCC) (180 mg) under stirring at 0° C. The mixture was stirred at 0° C. for 15 minutes. Then, 3-amino-6-chloro-4-(2,3,4-trimethoxyphenyl) quinoline (250 mg) was added to this mixture. The resultant mixture was stirred at 0° C. for an hour and at room temperature for two days. After the residue was filtered off, the filtrate was diluted with water and extracted with dichloromethane. The dichloromethane layer was washed with an aqueous sodium hydroxide solution, diluted with hydrochloric acid and water in this order and dried (MgSO4). The solvent was removed and the residue was purified by a silica gel column chromatography with hexane-ethyl acetate (3:1, V/V), and then crystallized from isopropyl ether to obtain 3-(3,5-di-tert-butyl-4-hydroxybenzamido)-6-chloro-4-(2,3,-4-trimethoxyphenyl) quinoline (199 mg, 47.6%).

reactant | 3,5-di-tert-butyl-4-hydroxybenzoic acid | 220 mg | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | dicyclohexylcarbodiimide | 180 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-amino-6-chloro-4-(2,3,4-trimethoxyphenyl) quinoline | 250 mg | NC=1C=NC2=CC=C(C=C2C1C1=C(C(=C(C=C1)OC)OC)OC)Cl | C18H17ClN2O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(3,5-di-tert-butyl-4-hydroxybenzamido)-6-chloro-4-(2,3,-4-trimethoxyphenyl) quinoline | 199 mg, 47.6% | C(C)(C)(C)C=1C=C(C(=O)NC=2C=NC3=CC=C(C=C3C2C2=C(C(=C(C=C2)OC)OC)OC)Cl)C=C(C1O)C(C)(C)C | C33H37ClN2O5
